US07365079B2
(2) Preparation of 3-[3-oxospiro[isobenzofuran-1(3H),4′-piperidin]-1′-yl]-5-(3-trifluoromethylphenyl)-1H-pyrazole
Triethylamine (0.10 mL, 0.72 mmol) was added to ethanol solution (5.0 mL) of 3,3-bis(methylthio)-1-(3-trifluoromethylphenyl)-2-propen-1-one (200 mg, 0.68 mmol) and 3-oxospiro[isobenzofuran-1(3H),4′-piperidine]monohydrate hydrochloride (177 mg, 0.69 mmol), and the mixture was stirred at 80° C. for 24 hours under a nitrogen atmosphere. After that, hydrazine monohydrate (0.083 mL, 1.7 mmol) was added thereto, the mixture was stirred at 80° C. for 6 hours. The reaction mixture was concentrated, and water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was separated and purified by a silica gel column chromatography (Biotage, Si+12M, hexane:ethyl acetate=1:1) to obtain the title compound (86 mg, 30%).

reactant | Triethylamine | 0.72 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | 3,3-bis(methylthio)-1-(3-trifluoromethylphenyl)-2-propen-1-one | 0.68 mmol, 200 mg | CSC(=CC(=O)C1=CC(=CC=C1)C(F)(F)F)SC | C12H11F3OS2
reactant | hydrazine monohydrate | 1.7 mmol, 0.083 mL | O.NN
reactant | ethanol | 5.0 mL | C(C)O | C2H6O
product | 3-[3-oxospiro[isobenzofuran-1(3H),4′-piperidin]-1′-yl]-5-(3-trifluoromethylphenyl)-1H-pyrazole | 86 mg, 30% | O=C1OC2(CCN(CC2)C2=NNC(=C2)C2=CC(=CC=C2)C(F)(F)F)C2=CC=CC=C12 | C22H18F3N3O2
